* frequency-phase detector according to
* http://www.uwe-kerwien.de/pll/pll-phasenvergleich.htm

.subckt f-p-det d_R d_V d_U d_U_ d_D d_D_

aa1 [d_U d_D] d_rset and1
.model and1 d_and(rise_delay = 1e-10 fall_delay = 0.1e-9
+ input_load = 0.5e-12)

ad1 d_d1 d_R d_d0 d_rset d_U d_U_ flop1
ad2 d_d1 d_V d_d0 d_rset d_D d_D_ flop1
.model flop1 d_dff(clk_delay = 1.0e-10 set_delay = 1.0e-10
+ reset_delay = 1.0e-10 ic = 2 rise_delay = 1.0e-10
+ fall_delay = 1e-10)

.ends f-p-det
